US08557805B2
4-({6-[(Methylsulfonyl)methyl]pyridin-3-yl}oxy)-2-(tetrahydro-2H-pyran-4-yloxy)aniline
To a solution of 2-[(methylsulfonyl)methyl]-5-[4-nitro-3-(tetrahydro-2H-pyran-4-yloxy)phenoxy]pyridine (22 g) in ethanol (250 mL) was added 10% palladium carbon (2 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for 15 hr. Palladium carbon was removed, and the residue was concentrated under reduced pressure to give the title compound (20 g, yield 100%) as a colorless amorphous solid.

reactant | 2-[(methylsulfonyl)methyl]-5-[4-nitro-3-(tetrahydro-2H-pyran-4-yloxy)phenoxy]pyridine | 22 g | CS(=O)(=O)CC1=NC=C(C=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])OC1CCOCC1 | C18H20N2O7S
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | palladium carbon | 2 g | [C].[Pd]
product | 4-({6-[(Methylsulfonyl)methyl]pyridin-3-yl}oxy)-2-(tetrahydro-2H-pyran-4-yloxy)aniline | 20 g, yield 100% | CS(=O)(=O)CC1=CC=C(C=N1)OC1=CC(=C(N)C=C1)OC1CCOCC1 | C18H22N2O5S
